US05395766
Into a three-necked flask of 1liter, 25g (0.145 mol) of o-bromophenol, 6.1 g (0,152mol) of sodium hydroxide and 300 ml of ethanol were charged and refluxed for two hours. Then, 82.0 g (0.578 mol) of methyl iodide was added dropwise and the mixture was refluxed further for four hours. After the mixture was cooled to room temperature, 600 ml of diethyl ether was added. The mixture was charged into a separatory funnel. Separated organic layer was washed successively with, 100 ml of 2N-hydrochloric acid cooled with ice, 300 ml of saturated sodium thiosulfate, and water until the washings were neutral. The organic layer was dried over anhydrous magnesium sulfate, and the solvent was removed by distillation under reduced pressure. The concentrate was distilled under reduced pressure to obtain 25.3 g (0.135 mol) of o-methoxyphenylbromide.

reactant | o-bromophenol | BrC1=C(C=CC=C1)O | C6H5BrO
reactant | sodium hydroxide | 0,152mol, 6.1 g | [OH-].[Na+]
reactant | ethanol | 300 ml | C(C)O | C2H6O
reactant | methyl iodide | 0.578 mol, 82.0 g | CI | CH3I
solvent | diethyl ether | 600 ml | C(C)OCC | C4H10O
product | o-methoxyphenylbromide | 0.135 mol, 25.3 g | COC1=C(C=CC=C1)Br | C7H7BrO
